.title kicad schematic

.include NMOS-5um.lib
.include NPN.lib
.include PNP.lib
q16 net-_q10-pad3_ net-_c2-pad2_ net-_q12-pad3_ Q2N2222
q12 net-_c1-pad1_ unconnected-_q12-pad2_ net-_q12-pad3_ Q2N2222
r5 gnd net-_q12-pad3_ 2.2k
c1 net-_c1-pad1_ gnd 5p
q10 net-_q10-pad1_ net-_q10-pad2_ net-_q10-pad3_ Q2N2222
q19 net-_c2-pad1_ net-_c2-pad2_ unconnected-_q12-pad2_ Q2N2222
q14 net-_c2-pad1_ net-_c1-pad1_ net-_q10-pad3_ Q2N2222
c4 output gnd 1u
q21 net-_q20-pad3_ net-_q20-pad1_ input Q2N2907A
* u2 input plot_v1
v1 input gnd  dc 10
r9 net-_q20-pad3_ output 0.65
* u3 output plot_v1
q17 input net-_q15-pad1_ net-_q17-pad3_ Q2N2222
r6 net-_q18-pad2_ net-_q17-pad3_ 1.86k
* u6 input plot_v1
r8 input net-_q20-pad1_ 600
q20 net-_q20-pad1_ net-_q17-pad3_ net-_q20-pad3_ Q2N2222
q9 input net-_q3-pad1_ net-_q11-pad1_ Q2N2222
q18 net-_q15-pad1_ net-_q18-pad2_ output Q2N2222
q8 net-_q11-pad1_ net-_q11-pad2_ net-_q6-pad3_ Q2N2222
q6 net-_q13-pad2_ net-_q13-pad2_ net-_q6-pad3_ Q2N2222
q15 net-_q15-pad1_ net-_q15-pad1_ net-_c2-pad1_ Q2N2222
q11 net-_q11-pad1_ net-_q11-pad2_ net-_q10-pad1_ Q2N2222
r4 net-_c1-pad1_ net-_q13-pad3_ 4.4k
q13 net-_m1-pad1_ net-_q13-pad2_ net-_q13-pad3_ Q2N2222
r10 output net-_c2-pad2_ 5.5k
r11 net-_c2-pad2_ gnd 3.15k
c3 input gnd 0.01u
c2 net-_c2-pad1_ net-_c2-pad2_ 47p
r7 net-_q20-pad3_ net-_q18-pad2_ 1.32k
* u1 gnd net-_q4-pad1_ zener
q5 net-_q3-pad1_ net-_q4-pad1_ net-_q13-pad2_ Q2N2222
q3 net-_q3-pad1_ net-_q1-pad1_ input Q2N2907A
q4 net-_q4-pad1_ net-_q1-pad1_ input Q2N2907A
q1 net-_q1-pad1_ net-_q1-pad1_ net-_m1-pad1_ Q2N2222
q2 net-_q15-pad1_ net-_q1-pad1_ input Q2N2907A
r12 net-_q1-pad1_ net-_q3-pad1_ 2.8k
m1 net-_m1-pad1_ gnd gnd gnd mos_n W=100u L=100u M=1
r2 unconnected-_q12-pad2_ net-_q10-pad2_ 6.8k
r1 net-_q10-pad2_ net-_q6-pad3_ 3k
r3 net-_q7-pad1_ unconnected-_q12-pad2_ 2.85k
q7 net-_q7-pad1_ net-_q7-pad1_ gnd Q2N2222
a1 gnd net-_q4-pad1_ u1
* Schematic Name:                             zener, Ngspice Name: zener
.model u1 zener(v_breakdown=7.0 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
.tran 1e-03 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(input)
plot v(output)
plot v(input)
.endc
.end
