.title kicad schematic

.include PNP.lib
.include NPN.lib
r5 gnd b 2k
r4 net-_c2-pad2_ b 10k
c2 net-_c2-pad1_ net-_c2-pad2_ 30p
q4 net-_c2-pad1_ net-_c2-pad2_ gnd Q2N2222
r6 net-_q5-pad3_ out 1k
* u1 b out zener
q2 out out net-_c1-pad1_ Q2N2222
r2 net-_c1-pad2_ net-_q1-pad2_ 2k
q3 net-_q1-pad2_ net-_c2-pad1_ net-_c1-pad1_ Q2N2907A
q1 net-_c1-pad1_ net-_q1-pad2_ gnd Q2N2222
c1 net-_c1-pad1_ net-_c1-pad2_ 15p
r1 net-_c1-pad1_ out 50
r3 gnd net-_q1-pad2_ 30k
q6 net-_q5-pad2_ b c Q2N2222
* u5 c plot_v1
* u4 b plot_v1
q5 net-_c2-pad1_ net-_q5-pad2_ net-_q5-pad3_ Q2N2907A
q7 net-_q5-pad2_ net-_q5-pad2_ out Q2N2907A
* u2 in plot_v1
r8 out in 6.8k
* u3 out plot_v1
r7 gnd c 2.6k
v1 in gnd  dc 9
a1 b out u1
* Schematic Name:                             zener, Ngspice Name: zener
.model u1 zener(v_breakdown=6.5 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
.tran 10e-03 100e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(c)
plot v(b)
plot v(in)
plot v(out)
.endc
.end
