.title kicad schematic

.include NMOS-5um.lib
.include NPN.lib
.include D.lib
.include PNP.lib
q3 net-_d1-pad1_ net-_m1-pad2_ net-_q1-pad3_ Q2N2222
q4 net-_d1-pad2_ net-_m1-pad2_ net-_q1-pad3_ Q2N2222
* u1 net-_c1-pad2_ net-_m1-pad2_ zener
m1 net-_d1-pad1_ net-_m1-pad2_ net-_c1-pad2_ net-_c1-pad2_ mos_n W=100u L=100u M=1
q1 net-_d1-pad1_ net-_m1-pad2_ net-_q1-pad3_ Q2N2222
q2 net-_d1-pad1_ net-_m1-pad2_ net-_q1-pad3_ Q2N2222
r1 net-_c1-pad2_ net-_q1-pad3_ 10k
q11 net-_d3-pad1_ net-_d1-pad2_ net-_d1-pad1_ Q2N2907A
v4 net-_d1-pad1_ gnd  dc 15
q13 net-_d1-pad1_ net-_d3-pad1_ net-_c2-pad2_ Q2N2222
r7 net-_c2-pad2_ net-_d3-pad2_ 120
d3 net-_d3-pad1_ net-_d3-pad2_ 1N4148
q10 net-_d3-pad1_ net-_c2-pad1_ net-_c3-pad1_ Q2N2222
v2 in2 gnd  dc 1
c2 net-_c2-pad1_ net-_c2-pad2_ 5p
q8 net-_c2-pad1_ net-_q8-pad2_ net-_q5-pad3_ Q2N2907A
q5 net-_d2-pad1_ in1 net-_q5-pad3_ Q2N2907A
r3 net-_q6-pad3_ net-_d1-pad1_ 5.6k
q6 net-_q5-pad3_ net-_d1-pad2_ net-_q6-pad3_ Q2N2907A
r10 in2 net-_q8-pad2_ 400k
* u3 in2 plot_v1
r6 net-_c1-pad2_ net-_q12-pad3_ 200
r4 net-_c1-pad2_ net-_q7-pad3_ 10k
r2 net-_c1-pad2_ net-_c1-pad1_ 4.7k
c1 net-_c1-pad1_ net-_c1-pad2_ 10p
v3 gnd net-_c1-pad2_  dc -15
q9 net-_c2-pad1_ net-_q12-pad3_ net-_c1-pad2_ Q2N2222
r5 net-_q12-pad3_ net-_c3-pad1_ 200
d2 net-_d2-pad1_ net-_c1-pad1_ 1N4148
d1 net-_d1-pad1_ net-_d1-pad2_ 1N4148
* u2 in1 plot_v1
v1 in1 gnd  dc -1
c3 net-_c3-pad1_ net-_c2-pad2_ 10p
r8 net-_c2-pad2_ out 50
q14 net-_d3-pad1_ net-_c2-pad2_ out Q2N2222
r9 out gnd 600
r11 out net-_q8-pad2_ 600k
q12 net-_d3-pad2_ net-_c3-pad1_ net-_q12-pad3_ Q2N2222
d4 out net-_d3-pad2_ 1N4148
* u4 out plot_v1
q7 net-_c2-pad1_ net-_d2-pad1_ net-_q7-pad3_ Q2N2222
a1 net-_c1-pad2_ net-_m1-pad2_ u1
* Schematic Name:                             zener, Ngspice Name: zener
.model u1 zener(v_breakdown=6.8 i_breakdown=2.0e-2 i_sat=1.0e-12 n_forward=1.0 limit_switch=FALSE ) 
.tran 1e-00 5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in2)
plot v(in1)
plot v(out)
.endc
.end
