.title KiCad schematic
R17 Net-_R17-Pad1_ in1 12k
R19 Net-_Q1-Pad2_ Net-_R17-Pad1_ 51
R16 Net-_R16-Pad1_ in2 12k
R18 Net-_Q3-Pad2_ Net-_R16-Pad1_ 51
U1 in1 plot_v1
R1 Net-_Q1-Pad1_ Net-_Q11-Pad1_ 2.4k
Q2 Net-_Q2-Pad1_ Net-_Q10-Pad2_ Net-_Q2-Pad3_ eSim_NPN
Q1 Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_NPN
U2 in2 plot_v1
v1 GND in1 sine
R2 Net-_Q2-Pad1_ Net-_Q1-Pad3_ 50
v2 in2 GND sine
R14 Net-_R10-Pad1_ Net-_Q10-Pad3_ 400
Q10 out1 Net-_Q10-Pad2_ Net-_Q10-Pad3_ eSim_NPN
v4 Net-_R10-Pad1_ GND DC
Q12 out2 Net-_Q10-Pad2_ Net-_Q12-Pad3_ eSim_NPN
R15 Net-_R10-Pad1_ Net-_Q12-Pad3_ 400
U3 out1 plot_v1
U4 out2 plot_v1
R20 out2 out1 2k
Q5 Net-_Q10-Pad2_ Net-_Q10-Pad2_ Net-_Q5-Pad3_ eSim_NPN
R8 Net-_R10-Pad1_ Net-_Q5-Pad3_ 1.4k
Q7 Net-_Q6-Pad3_ Net-_Q10-Pad2_ Net-_Q7-Pad3_ eSim_NPN
R10 Net-_R10-Pad1_ Net-_Q7-Pad3_ 250
Q4 Net-_Q4-Pad1_ Net-_Q10-Pad2_ Net-_Q4-Pad3_ eSim_NPN
R6 Net-_R10-Pad1_ Net-_Q4-Pad3_ 300
R3 Net-_R10-Pad1_ Net-_Q2-Pad3_ 300
Q11 Net-_Q11-Pad1_ Net-_Q11-Pad2_ out2 eSim_NPN
v3 Net-_Q11-Pad1_ GND DC
R13 out2 Net-_Q3-Pad1_ 7k
R12 out1 Net-_Q1-Pad1_ 7k
Q9 Net-_Q11-Pad1_ Net-_Q8-Pad1_ out1 eSim_NPN
R4 Net-_Q3-Pad1_ Net-_Q11-Pad1_ 2.4k
R7 Net-_Q10-Pad2_ Net-_Q11-Pad1_ 10k
R5 Net-_Q4-Pad1_ Net-_Q3-Pad3_ 80
Q3 Net-_Q3-Pad1_ Net-_Q3-Pad2_ Net-_Q3-Pad3_ eSim_NPN
R11 Net-_Q8-Pad1_ Net-_Q11-Pad1_ 0.7k
R9 Net-_Q11-Pad2_ Net-_Q11-Pad1_ 0.7k
Q6 Net-_Q11-Pad2_ Net-_Q3-Pad1_ Net-_Q6-Pad3_ eSim_NPN
Q8 Net-_Q8-Pad1_ Net-_Q1-Pad1_ Net-_Q6-Pad3_ eSim_NPN
.end
