.title kicad schematic

.include NPN.lib
r17 net-_r17-pad1_ in1 12k
r19 net-_q1-pad2_ net-_r17-pad1_ 51
r16 net-_r16-pad1_ in2 12k
r18 net-_q3-pad2_ net-_r16-pad1_ 51
* u1 in1 plot_v1
r1 net-_q1-pad1_ net-_q11-pad1_ 2.4k
q2 net-_q2-pad1_ net-_q10-pad2_ net-_q2-pad3_ Q2N2222
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
* u2 in2 plot_v1
v1 gnd in1 sine(0 1 1000 0 0)
r2 net-_q2-pad1_ net-_q1-pad3_ 50
v2 in2 gnd sine(0 1 1000 0 0)
r14 net-_r10-pad1_ net-_q10-pad3_ 400
q10 out1 net-_q10-pad2_ net-_q10-pad3_ Q2N2222
v4 net-_r10-pad1_ gnd  dc 6
q12 out2 net-_q10-pad2_ net-_q12-pad3_ Q2N2222
r15 net-_r10-pad1_ net-_q12-pad3_ 400
* u3 out1 plot_v1
* u4 out2 plot_v1
r20 out2 out1 2k
q5 net-_q10-pad2_ net-_q10-pad2_ net-_q5-pad3_ Q2N2222
r8 net-_r10-pad1_ net-_q5-pad3_ 1.4k
q7 net-_q6-pad3_ net-_q10-pad2_ net-_q7-pad3_ Q2N2222
r10 net-_r10-pad1_ net-_q7-pad3_ 250
q4 net-_q4-pad1_ net-_q10-pad2_ net-_q4-pad3_ Q2N2222
r6 net-_r10-pad1_ net-_q4-pad3_ 300
r3 net-_r10-pad1_ net-_q2-pad3_ 300
q11 net-_q11-pad1_ net-_q11-pad2_ out2 Q2N2222
v3 net-_q11-pad1_ gnd  dc -6
r13 out2 net-_q3-pad1_ 7k
r12 out1 net-_q1-pad1_ 7k
q9 net-_q11-pad1_ net-_q8-pad1_ out1 Q2N2222
r4 net-_q3-pad1_ net-_q11-pad1_ 2.4k
r7 net-_q10-pad2_ net-_q11-pad1_ 10k
r5 net-_q4-pad1_ net-_q3-pad3_ 80
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q3-pad3_ Q2N2222
r11 net-_q8-pad1_ net-_q11-pad1_ 0.7k
r9 net-_q11-pad2_ net-_q11-pad1_ 0.7k
q6 net-_q11-pad2_ net-_q3-pad1_ net-_q6-pad3_ Q2N2222
q8 net-_q8-pad1_ net-_q1-pad1_ net-_q6-pad3_ Q2N2222
.dc V1 0e-00 0.01e-00 0.00001e-00 V2 0e-00 0.01e-00 0.00001e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(in1)
plot v(in2)
plot v(out1)
plot v(out2)
.endc
.end
